US07723347B2
6-Chloro-4-(2-fluoro-4-nitrobenzyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
358 mg (0.72 mmol) of methyl (6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)(2-fluoro-4-nitrophenyl)acetate are dissolved in 6 ml of methanol. 21 mg (0.87 mmol) of lithium hydroxide and 2 drops of water are added, and the mixture is stirred at RT for 20 hours. The mixture is concentrated under reduced pressure, dichloromethane and water are added and the organic phase is separated off and dried over sodium sulfate. The solvent is removed under reduced pressure and the product is purified by chromatography on silica gel (mobile phase: dichloromethane). This gives an oil.

reactant | methyl (6-chloro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)(2-fluoro-4-nitrophenyl)acetate | 0.72 mmol, 358 mg | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)C(C(=O)OC)C2=C(C=C(C=C2)[N+](=O)[O-])F | C22H25ClFN3O5Si
reactant | lithium hydroxide | 0.87 mmol, 21 mg | [OH-].[Li+]
solvent | methanol | 6 ml | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | 6-Chloro-4-(2-fluoro-4-nitrobenzyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | ClC1=CC(=C2C(=N1)N(C=C2)COCC[Si](C)(C)C)CC2=C(C=C(C=C2)[N+](=O)[O-])F | C20H23ClFN3O3Si
